US08710243B2
5-chloro-2-(2,4-dimethylthiophen-3-yl)-3-(4-methoxyphenyl)-1H-indole-1-carbonitrile (75 mg, 0.19 mmol) was dissolved in 4 ml DCM and the mixture was cooled in an ice bath. BF3.SMe2 (0.20 ml, 1.91 mmol) was added drop wise and the mixture was stirred at room temperature for 24 h. A few drops MeOH were added at 0° C. followed by NaHCO3 (aq, sat) and brine. The layers were separated and the organic layer was concentrated. The crude product was purified on silica (MeOH/DCM 1:99). 42.0 mg 5-chloro-2-(2,4-dimethylthiophen-3-yl)-3-(4-hydroxyphenyl)-1H-indole-1-carbonitrile was obtained.

reactant | 5-chloro-2-(2,4-dimethylthiophen-3-yl)-3-(4-methoxyphenyl)-1H-indole-1-carbonitrile | 0.19 mmol, 75 mg | ClC=1C=C2C(=C(N(C2=CC1)C#N)C1=C(SC=C1C)C)C1=CC=C(C=C1)OC | C22H17ClN2OS
reactant | BF3 | B(F)(F)F | BF3
reactant | SMe2 | 1.91 mmol, 0.20 ml | S(C)C | C2H6S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
catalyst | MeOH | A few drops | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 5-chloro-2-(2,4-dimethylthiophen-3-yl)-3-(4-hydroxyphenyl)-1H-indole-1-carbonitrile | 42.0 mg | ClC=1C=C2C(=C(N(C2=CC1)C#N)C1=C(SC=C1C)C)C1=CC=C(C=C1)O | C21H15ClN2OS
